US05130335
1,1-Dimethyl-1,2,3,4-tetrahydronaphthalene
To 18 ml of ice-cold concentrated H2SO4 was added 17.8 g (0.1 mol) of 2-methyl-5-phenyl-2-pentanol over 10 minutes. The mixture was then stirred at 0° C. for 15 minutes and at room temperature for 15 minutes. The mixture was treated with 50 ml of water and then extracted with ether. The ether extracts were combined and washed with water and saturated NaCl and NaHCO3 solutions and then dried (MgSO4). The solution was filtered and the solvent removed in-vacuo. The residue was purified by distillation (93° C.; 10 mm) to give the title compound as a colorless oil.

reactant | 2-methyl-5-phenyl-2-pentanol | 0.1 mol, 17.8 g | CC(C)(CCCC1=CC=CC=C1)O | C12H18O
solvent | water | 50 ml | O | H2O
product | 1,1-Dimethyl-1,2,3,4-tetrahydronaphthalene | CC1(CCCC2=CC=CC=C12)C | C12H16
